US07449582B2
Step B: Preparation of 6-(3-Amino-2,6-dichloro-phenyl)-2-methylsulfanyl-pyrido[2,3-d]pyrimidin-7-ylamine
A mixture of 4-amino-2-methylsulfanyl-pyrimidine-5-carbaldehyde (2.0 g, 11.82 mmol), (3-amino-2,6-dichloro-phenyl)-acetonitrile (2.85 g, 14.18 mmol) and K2CO3 (4.9 g, 35.49 mmol) in DMF (20 mL) is heated to 110° C. for 30 hours. The solution is cooled to room temperature and the solid is removed by filter paper and concentrated to give crude product. Flash silica gel column purification, eluting with CH2Cl2 (100%) gradient to CH2Cl2/MeOH (2N NH3) (100/7%), gives the title intermediate as a solid (3.31 g, 80.0%).

reactant | 4-amino-2-methylsulfanyl-pyrimidine-5-carbaldehyde | 11.82 mmol, 2.0 g | NC1=NC(=NC=C1C=O)SC | C6H7N3OS
reactant | (3-amino-2,6-dichloro-phenyl)-acetonitrile | 14.18 mmol, 2.85 g | NC=1C(=C(C(=CC1)Cl)CC#N)Cl | C8H6Cl2N2
reactant | K2CO3 | 35.49 mmol, 4.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 6-(3-Amino-2,6-dichloro-phenyl)-2-methylsulfanyl-pyrido[2,3-d]pyrimidin-7-ylamine | 3.31 g, 80.0% | NC=1C(=C(C(=CC1)Cl)C1=CC2=C(N=C(N=C2)SC)N=C1N)Cl | C14H11Cl2N5S
